US08183275B2
To a suspension of copper(I) iodide (7.61 g, 40.0 mmol) in THF (50 mL) at −50° C. was added cyclopropylmagnesium bromide (160 mL, 80.0 mmol, 0.5 M in THF) under nitrogen. After stirring for 15 minutes, the suspension was allowed to warm up and stirred at rt for 20 min before cooling back to −50° C. A solution of diethyl isopropylidenemalonate (4.0 g, 20.0 mmol) in THF (50 mL) was added, and the reaction was allowed to warm to rt over 3 h. The reaction mixture was then quenched with saturated sodium bicarbonate (200 mL), and filtered through Celite. The filtrate was extracted with ethyl acetate (3×250 mL). The combined extracts were dried over sodium sulfate and concentrated, and the resulting residue was purified by silica gel chromatography eluting with diethyl ether/hexanes (1:10) to afford 2-(1-cyclopropyl-1-methylethyl)malonic acid diethyl ester.

reactant | cyclopropylmagnesium bromide | 80.0 mmol, 0.5 M, 160 mL | C1(CC1)[Mg]Br
reactant | diethyl isopropylidenemalonate | 20.0 mmol, 4.0 g | C(C)(C)=C(C(=O)OCC)C(=O)OCC | C10H16O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 40.0 mmol, 7.61 g | [Cu]I
product | 2-(1-cyclopropyl-1-methylethyl)malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C(C)(C)C1CC1)=O | C13H22O4
